US06670364B2
N-({[4-fluoro-3-(trifluoromethyl)phenyl]amino}carbonyl)(4-hydroxy-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl)carboxamide (43)
A suspension of (4-chloro-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl)-N-({[4-fluoro-3-(trifluoromethyl)phenyl]amino}carbonyl)carboxamide (0.050 g) in THF (5 mL) was dissolved in a 1:3 mixture of N,N-diisopropylethylamine (DIPEA) and water (4 mL). The solution was stirred at room temperature for 24 h, concentrated, and the residue purified by column chromatography on silica-gel eluting with 3:1 EtOAc-MeOH to give the title compound as a white powder. 1H NMR (DMSO-d6) δ 2.46 (s, 3H), 3.75 (s, 3H), 7.45 (dd, J=9.9, 9.9 Hz, 1H), 7.81 (m, 1H), 8.11 (dd, J=6.6, 2.6 Hz, 1H), 8.58 (s, 1H), 11.51 (br s, 1H). MS (ESI) m/z 410.

reactant | (4-chloro-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl)-N-({[4-fluoro-3-(trifluoromethyl)phenyl]amino}carbonyl)carboxamide | 0.050 g | ClC1=C2C(=NC=C1C(=O)NC(=O)NC1=CC(=C(C=C1)F)C(F)(F)F)N(N=C2C)C | C17H12ClF4N5O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | 4 mL | O | H2O
product | N-({[4-fluoro-3-(trifluoromethyl)phenyl]amino}carbonyl)(4-hydroxy-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl)carboxamide | FC1=C(C=C(C=C1)NC(=O)NC(=O)C=1C(=C2C(=NC1)N(N=C2C)C)O)C(F)(F)F | C17H13F4N5O3
